US03994890
Oily 1-N-phenylpiperazinocarbonylethyl-3-phenyl-5-methylindazole (4.0 g) which had been prepared by reacting in order 1-hydroxycarbonylethyl-3-phenyl-5-methylindazole with ethyl chlorocarbonate and N-phenyl-piperazine was treated with the use of lithium aluminum hydride (1.2 g) by the procedure similar to that described in Example 27 to obtain 6.1 g of 1-N-phenylpiperazino-propyl-3-phenyl-5-methylindazole hydrochloride having a melting point between 195°-200° C after recrystallization from ethanol-ether.

reactant | 1-N-phenylpiperazinocarbonylethyl-3-phenyl-5-methylindazole | 4.0 g | C1(=CC=CC=C1)N1N=C(C2=C(C(=CC=C12)C)CCC(=O)N1CCNCC1)C1=CC=CC=C1 | C27H28N4O
reactant | 1-hydroxycarbonylethyl-3-phenyl-5-methylindazole | OC(=O)C(C)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1 | C17H16N2O2
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | N-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | lithium aluminum hydride | 1.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-N-phenylpiperazino-propyl-3-phenyl-5-methylindazole hydrochloride | 6.1 g | Cl.C1(=CC=CC=C1)N1N=C(C2=C(C(=C(C=C12)N1CCNCC1)C)CCC)C1=CC=CC=C1 | InChI=1S/C27H30N4.ClH/c1-3-10-23-20(2)24(30-17-15-28-16-18-30)19-25-26(23)27(21-11-6-4-7-12-21)29-31(25)22-13-8-5-9-14-22;/h4-9,11-14,19,28H,3,10,15-18H2,1-2H3;1H
